US09120825B2
In an argon atmosphere, a dilithium(N,N′-diisopropyl-1,2-vinylenediaminide) solution prepared according to the procedure and reagent quantities described in Reference Example-7 was added to a hexane (200 mL) solution containing 25.00 g (184.6 mmol) of trichlorosilane, and the mixture was stirred at room temperature for 16 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained oily material was distilled under reduced pressure (distillation temperature: 64° C./4.4×102 Pa) to obtain 2-chloro-1,3-diisopropyl-1,3-diaza-2-silacyclopent-4-ene (Si(iPrNCHCHNiPr)(H)Cl) as a colorless liquid (yielded amount: 12.96 g, yield: 34%).

reactant | dilithium(N,N′-diisopropyl-1,2-vinylenediaminide) | C(C)(C)[N-]C=C[N-]C(C)C.[Li+].[Li+]
reactant | trichlorosilane | 184.6 mmol, 25.00 g | Cl[SiH](Cl)Cl | Cl3HSi
solvent | hexane | 200 mL | CCCCCC | C6H14
product | 2-chloro-1,3-diisopropyl-1,3-diaza-2-silacyclopent-4-ene | yield: 34% | Cl[SiH]1N(C=CN1C(C)C)C(C)C | C8H17ClN2Si
